US06822112B1
1-Ethynyl-1-triethylsiloxycyclopentane
To a dimethylformamide solution (49.5 ml) of 1-ethynyl-1-hydroxycyclopentane (5.45 g, 49.5 mmol) were added imidazole (6.74 g, 99.0 mmol) and triethylchlorosilane (9.97 ml, 59.4 mmol) at room temperature, followed by stirring for 30 minutes. The reaction solution was added to a mixture of n-hexane and a saturated aqueous sodium bicarbonate solution, and the organic layer was separated. The aqueous layer was extracted with hexane, and the organic layers were combined, washed with a saturated aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulfate. After filtration, the filtrate was evaporated under reduced pressure to give the title compound (9.26 g).

reactant | dimethylformamide | 49.5 ml | CN(C=O)C | C3H7NO
reactant | 1-ethynyl-1-hydroxycyclopentane | 49.5 mmol, 5.45 g | C(#C)C1(CCCC1)O | C7H10O
reactant | imidazole | 99.0 mmol, 6.74 g | N1C=NC=C1 | C3H4N2
reactant | triethylchlorosilane | 59.4 mmol, 9.97 ml | C(C)[Si](Cl)(CC)CC | C6H15ClSi
solvent | n-hexane | CCCCCC | C6H14
product | 1-Ethynyl-1-triethylsiloxycyclopentane | 9.26 g | C(#C)C1(CCCC1)O[Si](CC)(CC)CC | C13H24OSi
